US07691868B2
1-(1-ethynyl-cyclohexyl)-3-methylurea
A solution of 1 g (8 mmol) 1-ethynylcyclohexylamine and 2 mL (15 mmol) triethylamine in 10 mL acetonitrile is combined at ambient temperature with 0.5 g (9 mmol) methylisocyanate. The colourless suspension is stirred overnight at ambient temperature and then evaporated down. The residue is taken up in dichloromethane and washed with aqueous potassium carbonate solution. The organic phase is dried and evaporated down. Yield: 1.4 g (colourless solid)

reactant | 1-ethynylcyclohexylamine | 8 mmol, 1 g | C(#C)C1(CCCCC1)N | C8H13N
reactant | triethylamine | 15 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | methylisocyanate | 9 mmol, 0.5 g | CN=C=O | C2H3NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(1-ethynyl-cyclohexyl)-3-methylurea | C(#C)C1(CCCCC1)NC(=O)NC | C10H16N2O
